US07439393B2
ii) 1-[(2-[(6-Bromohexyl)oxy]ethoxy)methyl]-3-nitrobenzene
2-{(3-Nitrophenyl)methoxy}ethanol (6.50 g), 1,6-dibromohexane (24.2 g) and tetrabutylammonium bromide (0.21 g) were stirred under nitrogen at 200 and treated with 50% w/v sodium hydroxide (10 ml). The mixture was stirred vigorously for 19 h before water (150 ml) was added. The product was extracted with dichloromethane (3×80 ml) and the combined organic layer was dried (Na2SO4). Solvent evaporation in vacuo gave a residue that was purified by Biotage. Elution with PE-EtOAc (1:0 then 3:1) followed by solvent evaporation in vacuo gave the title compound (8.12 g). HPLC RT=3.238 min.

reactant | 2-{(3-Nitrophenyl)methoxy}ethanol | 6.50 g | [N+](=O)([O-])C=1C=C(C=CC1)COCCO | C9H11NO4
reactant | 1,6-dibromohexane | 24.2 g | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.21 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 150 ml | O | H2O
product | 1-[(2-[(6-Bromohexyl)oxy]ethoxy)methyl]-3-nitrobenzene | 8.12 g | BrCCCCCCOCCOCC1=CC(=CC=C1)[N+](=O)[O-] | C15H22BrNO4
